US05753668
A suspension of 8-trifluoromethylguanine (Pfleiderer and Shanshal, Liebigs Ann. Chem., 726, 201-215 (1969)) (2.0 g, 9.1 mmol) in phosphorous oxychloride (20 mL) was refluxed for 3 h. Excess phosphorous oxychloride was evaporated under reduced pressure. The resulting residue was mixed with ice-water (100 g), and the pH was adjusted to 3-4 with a concentrated aqueous NaOH solution. The resulting solution was mixed with MeOH (100 mL) and approximately half (i.e., 100 mL) of the aqueous methanol solution was loaded on a 3×80 cm Sephadex LH-20 column eluted with methanol/water (1:1) at 1 mL/min. Column eluent was continuously monitored at 280 nm and fractions (10 mL) were collected. The remainder of the reaction mixture in MeOH/H2O was chromatographed separately under identical conditions. The desired product eluted in fractions 73-85. Evaporation of solvent from the pooled fractions 73-85 from both chromatographic runs afforded analytically pure 2-amino-6-chloro-8-trifluoromethylpurine: yield, 0.94 g (43%); mp >225° C. dec.; UV (pH 1) λmax 245 nm (ε=0.501×104), 314 (0.746×104); (pH 6.9) 270 (0.265×104), 315 (0.612×104); (pH 13) 272 (0.269×104), 314 (0.612×104); 1H NMR δ7.19 (s, 2H, NH2, exchange with D2O), 14.25 (br s, 1H, NH, exchanges with D2O); MS (EI) calcd. m/z for C6H3 N5F335Cl237.0029, found 237.0011; calcd. m/z for C6 H3N F 37Cl 239.0000, found 238.9987; Anal. (C6H3 N5F3C) C, H, N, F, Cl.

reactant | 8-trifluoromethylguanine | 9.1 mmol, 2.0 g | FC(C1=NC=2N=C(NC(C2N1)=O)N)(F)F | C6H4F3N5O
reactant | phosphorous oxychloride | 20 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-amino-6-chloro-8-trifluoromethylpurine | NC1=NC(=C2NC(=NC2=N1)C(F)(F)F)Cl | C6H3ClF3N5
